US09290451B2
6-Cyclopropylmethoxy-5-(tetrahydro-furan-3-yl)-pyridine-2-carboxylic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using the mixture of 6-(cyclopropylmethoxy)-5-(tetrahydrofuran-3-yl)-pyridine-2-carboxylic acid and 6-(cyclopropylmethoxy)-5-(tetrahydrofuran-2-yl)-pyridine-2-carboxylic acid (mixture from Example 114 d), and 2-amino-2-methyl-1-propanol (CAN 124-68-5) as starting materials, MS (EI): m/e=335.1 [M+H]+.

reactant | 6-(cyclopropylmethoxy)-5-(tetrahydrofuran-3-yl)-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C1COCC1 | C14H17NO4
reactant | 6-(cyclopropylmethoxy)-5-(tetrahydrofuran-2-yl)-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C1OCCC1 | C14H17NO4
reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
product | 6-Cyclopropylmethoxy-5-(tetrahydro-furan-3-yl)-pyridine-2-carboxylic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | OCC(C)(C)NC(=O)C1=NC(=C(C=C1)C1COCC1)OCC1CC1 | C18H26N2O4
